US06333336B1
a) Diethyl aminomethylenemalonate
To diethyl ethoxymethylenemalonate (50.13 g, 0.232 mmol), cooled to −20° C. under nitrogen, was added a 2.0 M solution of ammonia in ethanol (232 ml, 0.464 mmol) and the resulting solution was stirred at room temperature overnight. The solution was then evaporated in vacuo to give a quantitative yield of the title compound as a cream solid; 1H NMR (360 MHz, CDCl3) 5 1.28 (3H, t, J 7.1 Hz), 1.35 (3H, t, J 7.1 Hz), 4.19 (2H, q, J 7.1 Hz), 4.26 (2H, q, J 7.1 Hz), 5.68 (1H, br s), 8.11 (1H, dd), 8.69 (1H, br s).

reactant | diethyl ethoxymethylenemalonate | 0.232 mmol, 50.13 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | ammonia | N | H3N
reactant | ethanol | 0.464 mmol, 232 ml | C(C)O | C2H6O
product | Diethyl aminomethylenemalonate | quantitative yield | NC=C(C(=O)OCC)C(=O)OCC | C8H13NO4
